US07943788B2
5-Bromo-1H-pyridin-2-one (1.04 g) and 4-ethylbenzyl bromide (1.43 g) were dissolved in N,N-dimethylformamide (15 ml), and thereto was added potassium carbonate (1.66 g). The mixture was stirred at room temperature overnight, diluted with ethyl acetate, and washed successively with water and brine. The extract was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-3:1) to give 5-bromo-1-(4-ethylphenylmethyl)-1H-pyridin-2-one (1.58 g) as colorless crystals. APCI-Mass m/Z 292/294 (M+H).

reactant | 5-Bromo-1H-pyridin-2-one | 1.04 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | 4-ethylbenzyl bromide | 1.43 g | C(C)C1=CC=C(CBr)C=C1 | C9H11Br
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-1-(4-ethylphenylmethyl)-1H-pyridin-2-one | 1.58 g | BrC=1C=CC(N(C1)CC1=CC=C(C=C1)CC)=O | C14H14BrNO
